US08242125B2
To a solution of LDA (115 mmol) in THF (300 mL), at −78° C., a solution of 1-hydroxymethyl-cyclopropanecarboxylic acid methyl ester (5 g, 28.4 mmol) in CH3CN (5.91 mL, 115 mmol) is added. The reaction is allowed to reach rt. At this point it is quenched with 1N HCl (200 mL) and extracted with EtOAc (200 mL×3). It is then dried and evaporated to give 3-(1-hydroxymethyl-cyclopropyl)-3-oxo-propionitrile. 1H NMR (400 MHz, DMSO-d6) δ ppm 4.26 (s, 2H) 4.03 (s, 1H) 3.58 (br. s., 2H) 1.15-1.16 (m, 2H) 0.92-0.95 (m, 2H).

reactant | LDA | 115 mmol | [Li+].CC(C)[N-]C(C)C
reactant | 1-hydroxymethyl-cyclopropanecarboxylic acid methyl ester | 28.4 mmol, 5 g | COC(=O)C1(CC1)CO | C6H10O3
reactant | CH3CN | 115 mmol, 5.91 mL | CC#N | C2H3N
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 3-(1-hydroxymethyl-cyclopropyl)-3-oxo-propionitrile | OCC1(CC1)C(CC#N)=O | C7H9NO2
